US05610144
By proceeding in a fashion similar to that described in Example 41 §A, but starting from 1.2 g of (2RS,4R)-2,4-diphenylthiazolidine, 1.04 g of 2-[3-(3-methylphenyl)ureido]acetic acid and 1.03 g of N,N'-dicyclohexylcarbodiimide in 15 cm3 of acetonitrile, and after treatment, 0.98 g of (2RS,4R)-1-{2-[3-(3-methylphenyl)ureido]acetyl}-2,4-diphenylthiazolidine is obtained in the form of a meringue-like product.

reactant | (2RS,4R)-2,4-diphenylthiazolidine | 1.2 g | C1(=CC=CC=C1)C1SC[C@H](N1)C1=CC=CC=C1 | C15H15NS
reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 1.04 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | N,N'-dicyclohexylcarbodiimide | 1.03 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile | 15 cm3 | C(C)#N | C2H3N
product | (2RS,4R)-1-{2-[3-(3-methylphenyl)ureido]acetyl}-2,4-diphenylthiazolidine | 0.98 g | CC=1C=C(C=CC1)NC(NCC(=O)S1C(N[C@@H](C1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H27N3O2S
